US06803463B2
A solution of hydroxylamine-O-sulfonic acid (73.4 g) in water (80 mL) and a separate solution of potassium carbonate (65.5 g) in water (80 mL) were added concurrently dropwise to a solution of pyridazine (40.0 g) in water (120 mL) at 50° C., maintaining a reaction mixture pH of 3.5-4.0. The reaction mixture was then heated at 40° C. for 2 hours to give a solution of N-aminopyridazinium sulfate, which was subsequently cooled to 20° C. and filtered. The filtrate was added dropwise to a solution of potassium hexafluorophosphate (91.9 g) in water (460 mL) at 50° C. The resulting suspension was slowly cooled to 5° C. over a 2 hour period, stirred for 30 minutes and the product isolated by filtration. The filtercake was washed portionwise with water (320 mL) and the product dried in vacuo at 40° C. to give the title compound as a white crystalline solid (69.9 g, 58%).

reactant | hydroxylamine-O-sulfonic acid | 73.4 g | NOS(=O)(=O)O | H3NO4S
reactant | potassium carbonate | 65.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridazine | 40.0 g | N1=NC=CC=C1 | C4H4N2
solvent | water | 80 mL | O | H2O
solvent | water | 80 mL | O | H2O
solvent | water | 120 mL | O | H2O
product | N-aminopyridazinium sulfate | S(=O)(=O)([O-])[O-].N[N+]1=NC=CC=C1.N[N+]1=NC=CC=C1 | InChI=1S/2C4H6N3.H2O4S/c2*5-7-4-2-1-3-6-7;1-5(2,3)4/h2*1-4H,(H2,5,6);(H2,1,2,3,4)/q2*+1;/p-2
